US08222416B2
A solution of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (190 mg, 0.44 mmol) in methanol (70 mL) was passed through a H-Cube reactor (10% palladium on activated carbon, 50° C., 50 bar of hydrogen pressure, 1 mL/minute). The reaction solution was concentrated in vacuo. The residue was purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (60 mg, 41%) as a white solid: LC/MS m/e calcd for C22H23F3N2O2S [M+H]+ 437.50, observed 436.9; 1H NMR (400 MHz, CD3OD) δ ppm 8.44 (s, 1H), 8.23 (s, 1H), 7.93-7.98 (m, J=8.3 Hz, 2H), 7.63-7.69 (m, J=8.3 Hz, 2H), 6.59 (s, 1H), 4.40 (t, J=7.8 Hz, 1H), 3.14 (s, 3H), 2.30-2.38 (m, 1H), 2.15-2.24 (m, 1H), 1.65-1.92 (m, 5H), 1.49-1.61 (m, 2H), 1.21-1.38 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 0.44 mmol, 190 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(F)(F)F)N1 | C22H21F3N2O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 mL | CO | CH4O
catalyst | palladium on activated carbon | [Pd] | Pd
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 60 mg, 41% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C(F)(F)F)N1 | C22H23F3N2O2S
